US05250548
N-Benzyloxymethyl-5-(2-bromophenyl)tetrazole
5-(2-Bromophenyl)-[1H]-tetrazole was nitrogen-protected as the benzyloxymethyl (BOM) ether by reaction of a solution of the tetrazole in anhydrous dimethylformamide with technical grade BOM-chloride and anhydrous potassium carbonate. The reaction was complete in less than 60 minutes and the work up involved filtration through Celite and evaporation of the solvent under reduced pressure. The residue obtained was purified by chromatography to afford the title product in 70% yield as an oil which crystallized on standing.

reactant | 5-(2-Bromophenyl)-[1H]-tetrazole | BrC1=C(C=CC=C1)C1=NN=NN1 | C7H5BrN4
reactant | tetrazole | N1N=NN=C1 | CH2N4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N-Benzyloxymethyl-5-(2-bromophenyl)tetrazole | 70% yield | C(C1=CC=CC=C1)OCN1N=NN=C1C1=C(C=CC=C1)Br | C15H13BrN4O
